.subckt sg13g2_xor2_2 X A B VDD VSS
XN0 net1 A VSS VSS sg13_lv_nmos w=550.00n l=130.00n ng=1 ad=1.87e-13 as=1.87e-13 pd=1.78e-06 ps=1.78e-06
XN3 X B net3 VSS sg13_lv_nmos w=1.48u l=130.00n ng=2 ad=2.812e-13 as=5.032e-13 pd=2.24e-06 ps=4.32e-06
XN2 X net1 VSS VSS sg13_lv_nmos w=1.48u l=130.00n ng=2 ad=2.812e-13 as=5.032e-13 pd=2.24e-06 ps=4.32e-06
XN4 net3 A VSS VSS sg13_lv_nmos w=1.48u l=130.00n ng=2 ad=2.812e-13 as=5.032e-13 pd=2.24e-06 ps=4.32e-06
XN1 net1 B VSS VSS sg13_lv_nmos w=550.00n l=130.00n ng=1 ad=1.87e-13 as=1.87e-13 pd=1.78e-06 ps=1.78e-06
XP0 net6 A VDD VDD sg13_lv_pmos w=1.000u l=130.00n ng=1 ad=3.4e-13 as=3.4e-13 pd=2.68e-06 ps=2.68e-06
XP1 net1 B net6 VDD sg13_lv_pmos w=1.000u l=130.00n ng=1 ad=3.4e-13 as=3.4e-13 pd=2.68e-06 ps=2.68e-06
XP2 net5 A VDD VDD sg13_lv_pmos w=2.24u l=130.00n ng=2 ad=4.256e-13 as=7.616e-13 pd=3e-06 ps=5.84e-06
XP4 net5 B VDD VDD sg13_lv_pmos w=2.24u l=130.00n ng=2 ad=4.256e-13 as=7.616e-13 pd=3e-06 ps=5.84e-06
XP3 X net1 net5 VDD sg13_lv_pmos w=2.24u l=130.00n ng=2 ad=4.256e-13 as=7.616e-13 pd=3e-06 ps=5.84e-06
.ends
